US07071201B2
Sodium borohydride (73 mg) was added at 0° C. to a solution of 1-{1-[2-(4-fluorophenyl)-2-oxoethyl]piperidin-4-yl}-7-methoxy-1,2,3,4-tetrahydroquinoline (400 mg) in methanol (10 ml). The resultant mixture was stirred at the same temperature for 1 hr and then at room temperature for 1 hr. After the completion of the reaction, water was added to the reaction solution followed by extraction with ethyl acetate. The resulting residue was purified by column chromatography (hexane/ethyl acetate system) to give 1-{1-[2-(4-fluorophenyl)-2-hydroxyethyl]piperidin-4-yl}-7-methoxy-1,2,3,4-tetrahydroquinoline as an oil. This product was dissolved in ethanol and oxalic acid was added thereto. The resulting precipitate of salt was recrystallized form ethanol/ether to give the title compound (280 mg) (yield: 68%).

reactant | Sodium borohydride | 73 mg | [BH4-].[Na+]
reactant | 1-{1-[2-(4-fluorophenyl)-2-oxoethyl]piperidin-4-yl}-7-methoxy-1,2,3,4-tetrahydroquinoline | 400 mg | FC1=CC=C(C=C1)C(CN1CCC(CC1)N1CCCC2=CC=C(C=C12)OC)=O | C23H27FN2O2
reactant | water | O | H2O
solvent | methanol | 10 ml | CO | CH4O
product | 1-{1-[2-(4-fluorophenyl)-2-hydroxyethyl]piperidin-4-yl}-7-methoxy-1,2,3,4-tetrahydroquinoline | FC1=CC=C(C=C1)C(CN1CCC(CC1)N1CCCC2=CC=C(C=C12)OC)O | C23H29FN2O2
